US07358268B2
To a solution of 190 mg of 3-(1H-Imidazol-4-yl)-propionic acid methyl ester (hydrochloride salt) in DMF (5 mL) was added K2CO3 (414 mg) and 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole (278 mg). The mixture was stirred for 2 h at 70° C. After removal of the solvent in vacuo the residue was taken up in ethyl acetate. The mixture was washed with water and brine. The organic phase was dried over anhydrous MgSO4 and concentrated under reduced pressure to give crude 3-{1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-imidazol-4-yl}-propionic acid methyl ester (174 mg) as a brown solid which was used in the next step without further purification.

reactant | 3-(1H-Imidazol-4-yl)-propionic acid methyl ester | 190 mg | COC(CCC=1N=CNC1)=O | C7H10N2O2
reactant | K2CO3 | 414 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 278 mg | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-{1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-imidazol-4-yl}-propionic acid methyl ester | 174 mg | COC(CCC=1N=CN(C1)CC1=NOC(=C1)C=1SC(=CC1)Cl)=O | C15H14ClN3O3S
